US05559230
5-Hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (3.57 g) is dissolved in dichloromethane (30 ml) and pyridine (1.1 ml), and thereto is added dropwise methanesulfonyl chloride (0.9 ml) in small portions at 0° C. Then, the mixture is stirred at room temperature for 3 days. The solvent is distilled off and the resulting residue is poured into ice-water. The precipitated crystal is collected by filtration, washed with water, and dried to give 5-chloro-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (3.10 g) as light yellow powder.

reactant | 5-Hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 3.57 g | OC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H24N2O3
reactant | methanesulfonyl chloride | 0.9 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | pyridine | 1.1 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 3.10 g | ClC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H23ClN2O2
